US04810806
A mixture of 58 g (about 0.2 mol) of crude bis(2-methoxytetrafluoroethyl)ketone, 16.9 g (0.21 mol) of 2-chloroethanol, and 50 mL of ether was stirred while 29.0 g (0.21 mol) of anhydrous K2CO3 were added in portions with cooling. The resulting reaction mixture was stirred overnight, filtered and distilled to give 40.7 g of 2,2-bis(2-methoxytetrafluoroethyl)-1,3-dioxolane, b.p. 81° at 40 Pa (0.3 mm), m.p. 30°-40°. Dissolution of the resulting filter cake in water, filtration of the resulting mixture and drying gave another 8.5 g of product, m.p. 38.5°-40°, for a total yield of 49.2 g (74%). IR (CCl4) and NMR (CCl4) of the product were consistent with the assigned structure.

reactant | bis(2-methoxytetrafluoroethyl)ketone | about 0.2 mol, 58 g | COC(C(F)(F)C(=O)C(C(OC)(F)F)(F)F)(F)F | C7H6F8O3
reactant | 2-chloroethanol | 0.21 mol, 16.9 g | ClCCO | C2H5ClO
reactant | K2CO3 | 0.21 mol, 29.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | ether | 50 mL | CCOCC | C4H10O
product | 2,2-bis(2-methoxytetrafluoroethyl)-1,3-dioxolane | 40.7 g | COC(C(C1(OCCO1)C(C(OC)(F)F)(F)F)(F)F)(F)F | C9H10F8O4
